US07598264B2
Step 2: 6-(4-Fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid
To a solution of methyl 6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate (0.575 g, 1.536 mmol) in methanol was added LiOH (0.11 g, 4.61 mmol) in water. The reaction mixture was heated to reflux. After 0.5 hours, the product mixture cooled to room temperature and concentrated under vacuum. The residual material was partitioned between EtOAc and 1 N HCl. The organic extract was washed with brine, dried with Na2SO4, filtered, and concentrated under vacuum to provide the title compound.

reactant | methyl 6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate | 1.536 mmol, 0.575 g | FC1=CC=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)OC)C)=O)OC)=O)C=C1 | C19H19FN2O5
reactant | LiOH | 4.61 mmol, 0.11 g | [Li+].[OH-]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 6-(4-Fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid | FC1=CC=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)O)C)=O)OC)=O)C=C1 | C18H17FN2O5
